US09334279B2
Preparation of tert-butyl ((2S,3R)-3-ethyl-1-((2S,4R)-4-hydroxy-2-(((1R,2S)-1-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)pyrrolidin-1-yl)-5-methyl-1-oxonon-8-en-2-yl)carbamate
The same procedure was used as described for the preparation of tert-butyl ((2S,3R)-1-((2S,4R)-4-hydroxy-2-(((1R,2S)-1-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)pyrrolidin-1-yl)-3,5-dimethyl-1-oxonon-8-en-2-yl)carbamate but (2S,4R)-1-((2S,3R)-2-(tert-butoxycarbonylamino)-3-ethyl-5-methylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid was used as starting material instead of (2S,4R)-1-((3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid. 1H NMR (400 MHz, DMSO-d6): δ ppm 10.42 (d, J=4.02 Hz, 1H) 8.83 (d, J=8.53 Hz, 1H) 6.24 (m, 1H) 5.81 (m, 1H) 5.57 (m, 1H) 5.05 (m, 5H) 4.32 (m, 3H) 3.59 (m, 2H) 1.92 (m, 8H) 1.25 (m, 21H) 0.84 (m, 8H) MS: MS m/z 653.4 (M++1)

reactant | tert-butyl ((2S,3R)-1-((2S,4R)-4-hydroxy-2-(((1R,2S)-1-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)pyrrolidin-1-yl)-3,5-dimethyl-1-oxonon-8-en-2-yl)carbamate | O[C@@H]1C[C@H](N(C1)C([C@H]([C@@H](CC(CCC=C)C)C)NC(OC(C)(C)C)=O)=O)C(N[C@]1([C@@H](C1)C=C)C(NS(=O)(=O)C1(CC1)C)=O)=O | C31H50N4O8S
reactant | (2S,4R)-1-((2S,3R)-2-(tert-butoxycarbonylamino)-3-ethyl-5-methylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@H](C1)O)C(=O)O)[C@@H](CC(CCC=C)C)CC | C22H38N2O6
reactant | (2S,4R)-1-((3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid | C(C)(C)(C)OC(=O)NC(C(=O)N1[C@@H](C[C@H](C1)O)C(=O)O)[C@@H](CC(CCC=C)C)C | C21H36N2O6
product | tert-butyl ((2S,3R)-3-ethyl-1-((2S,4R)-4-hydroxy-2-(((1R,2S)-1-(((1-methylcyclopropyl)sulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamoyl)pyrrolidin-1-yl)-5-methyl-1-oxonon-8-en-2-yl)carbamate | C(C)[C@@H]([C@@H](C(=O)N1[C@@H](C[C@H](C1)O)C(N[C@]1([C@@H](C1)C=C)C(NS(=O)(=O)C1(CC1)C)=O)=O)NC(OC(C)(C)C)=O)CC(CCC=C)C | C32H52N4O8S
